US04259489
2,3-Dicyano-6-n-propylamino-6-chloropyrazine (1.11 g; 0.005 mole) and 0.87 g (0.007 mole) of benzylthiol were dissolved in 50 ml of acetone. The solution was cooled to 0° to 5° C. With stirring, a solution prepared from 0.40 g (0.005 mole) of pyridine and 20 ml of water was added dropwise over the period of 30 minutes. The mixture was further stirred at 20° to 30° C. for 1 hour, and concentrated under reduced pressure to remove acetone. The residue was extracted with 100 ml of chloform. The extract was washed twice with 50 ml of water, dried over anhydrous calcium chloride, and concentrated under reduced pressure to afford a yellowish solid. Recrystallization of the solid from ethanol afforded 0.47 g (yield 30%) of 2,3-dicyano-5-n-propylamino-6-(benzylthio)pyrazine.

reactant | 2,3-Dicyano-6-n-propylamino-6-chloropyrazine | 0.005 mole, 1.11 g | C(#N)C=1NC(C=NC1C#N)(Cl)NCCC | C9H10ClN5
reactant | benzylthiol | 0.007 mole, 0.87 g | C1=CC=C(C=C1)CS | C7H8S
reactant | pyridine | 0.005 mole, 0.40 g | N1=CC=CC=C1 | C5H5N
reactant | water | 20 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2,3-dicyano-5-n-propylamino-6-(benzylthio)pyrazine | 0.47 g, yield 30% | C(#N)C1=NC(=C(N=C1C#N)NCCC)SCC1=CC=CC=C1 | C16H15N5S
